US08222416B2
To a solution of 1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine (3 g, 10.87 mmol) in dry tetrahydrofuran (40 mL) at −78° C. was added a solution of n-butyllithium in n-hexane (2.5 M, 6.8 mL 17 mmol). The mixture was stirred at −78° C. for 35 min and then treated with 4-methylsulfanyl-benzaldehyde (2.8 mL, 21.0 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×200 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded (1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanol as a white solid (2.1 g, 45.2%): LC/MS m/e calcd for C21H17FN2O3S2 [M+H]+ 429.51, observed 428.7.

reactant | 1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 10.87 mmol, 3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)F | C13H9FN2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 17 mmol, 2.5 M, 6.8 mL | CCCCCC | C6H14
reactant | 4-methylsulfanyl-benzaldehyde | 21.0 mmol, 2.8 mL | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-(4-methylsulfanyl-phenyl)-methanol | 2.1 g, 45.2% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(O)C2=CC=C(C=C2)SC | C21H17FN2O3S2
